US04996318
PREPARATION A-56 6-Methoxy-2-morpholino-4-(1-piperazinyl)pyrimidine
A solution of 2,4,6-trichloropyrimidine (55 g), methanol (50 ml) and collidine (50 g) is heated in dry tetrahydrofuran (400 ml) for 48 hr. Ether is added and the precipitate is collected. The precipitate is column chromatographed on silica gel to give 6-methoxy-2,4-dichloropyrimidine. This product is mixed with morpholine in THF and stirred at 20-25° to give 6-methoxy-2-morpholino-4-chloropyrimidine. The 6-methoxy-2-morpholino-4-chloropyrimidine is heated with piperazine in pyridine at 60° for 24 hr to give the title compound.

reactant | 6-methoxy-2-morpholino-4-chloropyrimidine | COC1=CC(=NC(=N1)N1CCOCC1)Cl | C9H12ClN3O2
reactant | piperazine | N1CCNCC1 | C4H10N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-Methoxy-2-morpholino-4-(1-piperazinyl)pyrimidine | COC1=CC(=NC(=N1)N1CCOCC1)N1CCNCC1 | C13H21N5O2
